US07795247B2
Step 1: methyl 1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-2-(2-{[(2-morpholin-4-ylethyl)amino]methyl}phenyl)-1H-indole-6-carboxylate
The title compound was obtained following the same procedure described in Example 1, Step 3 for the synthesis of methyl 1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-2-[2-({[2-(dimethylamino)ethyl]amino}methyl)phenyl]-1H-indole-6-carboxylate, using 2-morpholin-4-ylethyl amine instead of N,N-dimethylethane-1,2-diamine. The title compound was obtained in a 92% yield; MS (ES+) m/z 590 (M+H)+

reactant | methyl 1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-2-[2-({[2-(dimethylamino)ethyl]amino}methyl)phenyl]-1H-indole-6-carboxylate | C(C)(C)(C)OC(CN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)CNCCN(C)C)=O | C33H45N3O4
reactant | 2-morpholin-4-ylethyl amine | N1(CCOCC1)CCN | C6H14N2O
product | methyl 1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-2-(2-{[(2-morpholin-4-ylethyl)amino]methyl}phenyl)-1H-indole-6-carboxylate | 92% yield | C(C)(C)(C)OC(CN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)CNCCN1CCOCC1)=O | C35H47N3O5
